US03976656
reacting p-n butoxyacetophenone in solution with bromine stirred in slowly at room temperature to form p-n-butoxyphenacyl bromide;

reactant | p-n butoxyacetophenone | C(CCC)OC1=CC=C(C=C1)C(C)=O | C12H16O2
reactant | bromine | BrBr | Br2
product | p-n-butoxyphenacyl bromide | C(CCC)OC1=CC=C(C(CBr)=O)C=C1 | C12H15BrO2
